US07553854B2
In Scheme 5, 4-(2-(methylsulfinyl)benzo[d]oxazol-6-yloxy)-N-methylpyridine-2-carboxamide is aminated with cyclohexylmethanamine. The resulting 4-(2-(cyclohexylmethylamino)benzo[d]oxazol-6-yloxy)-N-methylpyridine-2-carboxamide is then hydrolyzed to form 4-[2-(cyclohexylmethyl-amino)-benzooxazol-6-yloxy]-pyridine-2-carboxylic acid. 4-[2-(Cyclohexylmethyl-amino)-benzooxazol-6-yloxy]-pyridine-2-carboxylic acid then reacts with benzotriazol-1-yloxytris(dimethylamino)-phosphonium hexafluorophosphate, tert-butyl carbazate, and triethyl amine to form 4-(2-(cyclohexylmethylamino)benzo[d]oxazol-6-yloxy)pyridine-2-carbohydrazide. 4-(2-(Cyclohexylmethylamino)benzo[d]oxazol-6-yloxy)pyridine-2-carbohydrazide then reacts with trimethyl orthoformate to form a compound of the embodiments.

reactant | 4-[2-(Cyclohexylmethyl-amino)-benzooxazol-6-yloxy]-pyridine-2-carboxylic acid | C1(CCCCC1)CNC=1OC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)O | C20H21N3O4
reactant | benzotriazol-1-yloxytris(dimethylamino)-phosphonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | tert-butyl carbazate | C(NN)(=O)OC(C)(C)C | C5H12N2O2
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | 4-(2-(cyclohexylmethylamino)benzo[d]oxazol-6-yloxy)pyridine-2-carbohydrazide | C1(CCCCC1)CNC=1OC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)NN | C20H23N5O3
